US04374829
A mixture of phenylpyruvic acid (753 mg) and L-alanyl-L-proline (171 mg) in methanol-water are adjusted to pH 6.8 and treated with sodium cyanoborohydride (173 mg) at room temperature until reaction is complete. The product is absorbed on strong cation exchange resin and eluted with 2% pyridine in water to give 294 mg of crude diastereomeric product, N-(1-carboxy-2-phenylethyl)-L-alanyl-L-proline. A portion is purified by gel filtration (LH-20) for spectrographic analysis. The nmr spectrum shows a broad singlet at 7.2, complex absorption from 3.0 to 4.6, a multiplet at 2.1 and a pair of doublets at 1.5 ppm.

reactant | phenylpyruvic acid | 753 mg | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
reactant | L-alanyl-L-proline | 171 mg | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | sodium cyanoborohydride | 173 mg | C(#N)[BH3-].[Na+]
solvent | methanol water | CO.O
product | N-(1-carboxy-2-phenylethyl)-L-alanyl-L-proline | C(=O)(O)C(CC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C17H22N2O5
